US04314842
e. Synthesis of 3-[5-(1-methoxy-1-methylethyl)-1,3,4-thiadiazol-2-yl]-1-methyl-4-hydroxy-2-imidazolidinone
To the 4.9 grams of the 3-[5-[1-methoxy-1-methylethyl]-1,3,4-thiadiazol-2-yl]-1-methyl-(2,2-dimethoxyethyl)urea (prepared above) was added 150 milliliters of water and 1.5 milliliters of concentrated hydrochloric acid (HCl). The resulting solution was refluxed for 5 minutes, and the aqueous phase was extracted twice with 50 milliliters of chloroform (CHCl3). The 100 milliliter chloroform extract was dried over anhydrous MgSO4, filtered and topped on a roto-vac at 70° C. to yield 3.0 grams of a yellow oil of 3-[5-(1-methoxy-1-methylethyl)-1,3,4-thiadiazol-2-yl]-1-methyl-4-hydroxy-2-imidazolidinone with an

reactant | 3-[5-[1-methoxy-1-methylethyl]-1,3,4-thiadiazol-2-yl]-1-methyl-(2,2-dimethoxyethyl)urea | 4.9 grams | COC(C)(C)C1=NN=C(S1)NC(N(C)CC(OC)OC)=O | C12H22N4O4S
reactant | hydrochloric acid | 1.5 milliliters | Cl | ClH
solvent | water | 150 milliliters | O | H2O
product | 3-[5-(1-methoxy-1-methylethyl)-1,3,4-thiadiazol-2-yl]-1-methyl-4-hydroxy-2-imidazolidinone | 3.0 grams | COC(C)(C)C1=NN=C(S1)N1C(N(CC1O)C)=O | C10H16N4O3S
